US07786115B2
N-Cyclopropyl-4-methyl-3-[1-oxo-7-(piperidin-4-yloxy)isoquinolin-2(1H)-yl]benzamide (50 mg), iodoethane (0.105 ml) and potassium carbonate (66 mg) were stirred in DMF (0.5 ml) at room temperature for 18 hours. The reaction mixture was diluted with ethyl acetate and washed with water (5×), brine, dried (magnesium sulfate) and concentrated to give N-cyclopropyl-3-[7-[(1-ethylpiperidin-4-yl)oxy]-1-oxoisoquinolin-2(1H)-yl]-4-methylbenzamide as a cream coloured foam solid (44 mg); NMR Spectrum: (DMSOd6) 0.56 (m, 2H), 0.69 (m, 2H), 1.00 (t, 3H), 1.69 (m, 2H), 1.99 (m, 2H), 2.10 (s, 3H), 2.25 (m, 2H), 2.38 (m, 2H), 2.71 (m, 2H), 2.85 (m, 1H), 4.53 (m, 1H), 6.70 (d, 1H), 7.20 (d, 1H), 7.41 (d, 1H), 7.49 (d, 1H), 7.67 (s, 1H), 7.70 (d, 1H), 7.72 (s, 1H), 7.88 (d, 1H), 8.42 (d, 1H); Mass Spectrum: M+H+ 446.

reactant | N-Cyclopropyl-4-methyl-3-[1-oxo-7-(piperidin-4-yloxy)isoquinolin-2(1H)-yl]benzamide | 50 mg | C1(CC1)NC(C1=CC(=C(C=C1)C)N1C(C2=CC(=CC=C2C=C1)OC1CCNCC1)=O)=O | C25H27N3O3
reactant | iodoethane | 0.105 ml | ICC | C2H5I
reactant | potassium carbonate | 66 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 0.5 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-cyclopropyl-3-[7-[(1-ethylpiperidin-4-yl)oxy]-1-oxoisoquinolin-2(1H)-yl]-4-methylbenzamide | C1(CC1)NC(C1=CC(=C(C=C1)C)N1C(C2=CC(=CC=C2C=C1)OC1CCN(CC1)CC)=O)=O | C27H31N3O3
